US04735952
A solution of phenyl 4-[(4-pyridyl)thio]-1-piperidine-carboxylate (5.0 g) in conc. hydrochloric acid (50 ml) was refluxed for 7 hours and concentrated to dryness in vacuo. The crystalline residue was washed with isopropanol and recrystallized from methanol to give 4-[(4-pyridyl)thio]piperidine dihydrochloride (2.85 g).

reactant | phenyl 4-[(4-pyridyl)thio]-1-piperidine-carboxylate | 5.0 g | N1=CC=C(C=C1)SC1CCN(CC1)C(=O)OC1=CC=CC=C1 | C17H18N2O2S
reactant | hydrochloric acid | 50 ml | Cl | ClH
product | 4-[(4-pyridyl)thio]piperidine dihydrochloride | 2.85 g | Cl.Cl.N1=CC=C(C=C1)SC1CCNCC1 | InChI=1S/C10H14N2S.2ClH/c1-5-11-6-2-9(1)13-10-3-7-12-8-4-10;;/h1-2,5-6,10,12H,3-4,7-8H2;2*1H
